US06174884B1
1-[1-(1-hydroxy-ethyl)-4-phenyl-butyl]-6-(3-methoxy-benzyl)-1,5-dihydro-pyrazolo-[3,4-d]pyrimidin-4-one
Starting from 400 mg (1.32 mmol) of 5-amino-1-[1-(1-hydroxy-ethyl)-4-phenyl-butyl]-1H-pyrazole-4-carboxamide and 610 mg (3.81 mmol) of 3-methoxyphenylacetyl chloride, the title compounds are prepared analogously to the protocol of Example 13. This gives 160 mg (28%) of the diastereomer which elutes more rapidly, M.p.: 92° C., and 145 mg (25%) of the diastereomer which elutes more slowly, M.p.: 54° C.

reactant | 5-amino-1-[1-(1-hydroxy-ethyl)-4-phenyl-butyl]-1H-pyrazole-4-carboxamide | 1.32 mmol, 400 mg | NC1=C(C=NN1C(CCCC1=CC=CC=C1)C(C)O)C(=O)N | C16H22N4O2
reactant | 3-methoxyphenylacetyl chloride | 3.81 mmol, 610 mg | COC=1C=C(C=CC1)CC(=O)Cl | C9H9ClO2
product | 1-[1-(1-hydroxy-ethyl)-4-phenyl-butyl]-6-(3-methoxy-benzyl)-1,5-dihydro-pyrazolo-[3,4-d]pyrimidin-4-one | OC(C)C(CCCC1=CC=CC=C1)N1N=CC2=C1N=C(NC2=O)CC2=CC(=CC=C2)OC | C25H28N4O3
